US07935819B2
To a solution of 5 g of 2-(4-nitrophenyl)-2-methylpropionic acid in 40 mL of methanol, under argon, are added 4 mL of sulphuric acid. The reaction medium is heated at reflux for 3 hours and concentrated under reduced pressure. The residue is taken up in a mixture of ice-water and dichloromethane, the phases are separated and the organic phase is dried over magnesium sulphate and filtered. The filtrate is concentrated under reduced pressure to give 5.18 g of methyl 2-methyl-2-(4-nitrophenyl)propanoate in the form of a pale yellow solid, the characteristics of which are as follows:

reactant | 2-(4-nitrophenyl)-2-methylpropionic acid | 5 g | [N+](=O)([O-])C1=CC=C(C=C1)C(C(=O)O)(C)C | C10H11NO4
reactant | sulphuric acid | 4 mL | S(O)(O)(=O)=O | H2O4S
reactant | methanol | 40 mL | CO | CH4O
product | methyl 2-methyl-2-(4-nitrophenyl)propanoate | 5.18 g | CC(C(=O)OC)(C)C1=CC=C(C=C1)[N+](=O)[O-] | C11H13NO4
